US06504034B2
To a solution of 2-formyl-pyrrole-1-carboxylic acid tert-butyl ester (23.4 g, 120 mmol) (prepared as described below) in dry THF (275 mL) was added ethylmagnesium chloride (Aldrich, 0.5 M solution in THF, 480 mL, 240 mmol) dropwise at −65° C. and the reaction mixture was stirred at the same temperature for 0.5 hour. The cooling bath was then removed and the reaction mixture was stirred for another 1 hour to give a clear solution. The reaction was quenched by slowly adding EtOH (60 mL) and a saturated aqueous solution of NH4Cl (200 mL) at 5° C., and extracted with ethyl acetate (3×250 mL). The combined organic extracts were successively washed with water (200 mL) and brine (200 mL), dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Biotage, 75-S, 92/8 hexanes/ethyl acetate) purification of the crude oil afforded 2-(1-hydroxy-prop-2-ynyl)-pyrrole-1-carboxylic acid tert-butyl ester as a light amber oil. (Yield 25.0 g, 94.2%).

reactant | 2-formyl-pyrrole-1-carboxylic acid tert-butyl ester | 120 mmol, 23.4 g | C(C)(C)(C)OC(=O)N1C(=CC=C1)C=O | C10H13NO3
reactant | ethylmagnesium chloride | 240 mmol, 0.5 M, 480 mL | C(C)[Mg]Cl
solvent | THF | 275 mL | C1CCOC1 | C4H8O
product | 2-(1-hydroxy-prop-2-ynyl)-pyrrole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(=CC=C1)C(C#C)O | C12H15NO3
